US05811553
2-(2-thienyl)quinoline-4-carboxylic acid
5 g (34.0 mmol) of isatin, 4.4 ml (40.8 mmol) of 2-acetylthiophene and 6.3 g (112.2 mmol) of potassium hydroxide were dissolved in 40 ml of abs. EtOH and the slurry heated at 80° C. for 16 hours. After cooling of the reaction mixture, 50 ml of water were added and the solution extracted with 50 ml of Et2O. The ice-cooled aqueous phase was acidified to pH 1 with 37% HCl and the precipitate collected by filtration and washed with water. The crude product obtained was dried in-vacuo at 40° C. and triturated with EtOAc to yield 4.8 g of the title compound.

reactant | isatin | 34.0 mmol, 5 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 2-acetylthiophene | 40.8 mmol, 4.4 ml | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | potassium hydroxide | 112.2 mmol, 6.3 g | [OH-].[K+]
reactant | EtOH | CCO | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-(2-thienyl)quinoline-4-carboxylic acid | 4.8 g | S1C(=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C14H9NO2S
